US08404856B2
Step 2: 3-(3,5-dichlorophenoxy)-4-(trifluoromethyl)pyridin-2(1H)-one 19-2
To 2-chloro-3-(3,5-dichlorophenoxy)-4-(trifluoromethyl)pyridine (2.10 g, 6.10 mmol) in tert-butanol (25 mL) was added potassium hydroxide (1.03 g, 18.4 mmol). The reaction mixture was placed in an oil bath and heated at 75° C. After 48 hours, the reaction mixture was allowed to cool to room temperature and was quenched with saturated aqueous ammonium chloride (25 mL) and diluted with water (25 mL). The mixture was extracted with ethyl acetate (2×50 mL). The combined organic extracts were washed with water (2×50 mL) and the solvent was evaporated under reduced pressure to yield a solid. This was adsorbed onto silica and purified by column chromatography on a pre-packed silica gel Redi Sep 40 gram column, eluting with 0-5% methanol in CH2Cl2 to afford the title compound. 1H NMR (DMSO-d6) δ 12.69 (s, 1H), 7.58 (d, J=6.8 Hz, 1H), 7.32-7.30 (m, 1H), 7.10-7.08 (m, 2H), 6.48 (d, J=6.8 Hz, 1H). HRMS (M+1)=323.9800.

reactant | 2-chloro-3-(3,5-dichlorophenoxy)-4-(trifluoromethyl)pyridine | 6.10 mmol, 2.10 g | ClC1=NC=CC(=C1OC1=CC(=CC(=C1)Cl)Cl)C(F)(F)F | C12H5Cl3F3NO
reactant | potassium hydroxide | 18.4 mmol, 1.03 g | [OH-].[K+]
solvent | tert-butanol | 25 mL | C(C)(C)(C)O | C4H10O
product | 3-(3,5-dichlorophenoxy)-4-(trifluoromethyl)pyridin-2(1H)-one | ClC=1C=C(OC=2C(NC=CC2C(F)(F)F)=O)C=C(C1)Cl | C12H6Cl2F3NO2
